US07262185B2
To 2-methoxy-4-nitrobenzenethiol (7.0 g) was added acetic acid (70 ml), reduced iron (21 g) was added to the mixture, and the mixture was stirred for 6 hours at room temperature. The mixture was filtered with Celite, and washed with ethyl acetate. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography, to give 4-amino-2-methoxybenzenethiol (3.1 g).

reactant | 2-methoxy-4-nitrobenzenethiol | 7.0 g | COC1=C(C=CC(=C1)[N+](=O)[O-])S | C7H7NO3S
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 4-amino-2-methoxybenzenethiol | 3.1 g | NC1=CC(=C(C=C1)S)OC | C7H9NOS
